US09259470B2
2′-Fluoro-N-(tetrahydro-2H-pyran-4-yl)-4,4′-bipyridin-2-amine (0.64 g, 2.3 mmol) was combined with 1M HCl (25 mL, 25 mmol) and heated to 95° C. for 3 hours. Upon cooling, the mixture was neutralized (pH 7-8) with of 1M NaOH (25 mL). The resulting slurry was cooled to 0° C. and filtered. The solids were washed with water and dried to give 4-(2-(tetrahydro-2H-pyran-4-ylamino)pyridin-4-yl)pyridin-2(1H)-one (0.62 g, 2.3 mmol, 98% yield) as a solid.

reactant | 2′-Fluoro-N-(tetrahydro-2H-pyran-4-yl)-4,4′-bipyridin-2-amine | 2.3 mmol, 0.64 g | FC1=NC=CC(=C1)C1=CC(=NC=C1)NC1CCOCC1 | C15H16FN3O
reactant | HCl | 25 mmol, 1M, 25 mL | Cl | ClH
reactant | NaOH | 1M, 25 mL | [OH-].[Na+]
product | 4-(2-(tetrahydro-2H-pyran-4-ylamino)pyridin-4-yl)pyridin-2(1H)-one | 2.3 mmol, 0.62 g, 98% yield | O1CCC(CC1)NC1=NC=CC(=C1)C1=CC(NC=C1)=O | C15H17N3O2
